US04022814
A solution of glacial acetic acid (1350 ml.) and iodine (250 g.) was heated to 100° and then concentrated sulfuric acid (140 ml. of 95-97%) added, followed by benzyl alcohol (216 g.). Sodium iodate (92 g.) in water (500 ml.) was then introduced dropwise with stirring over a period of 1 hour. The temperature was maintained at 100°-110° for an additional 30 min. before the reaction mixture was poured onto 1 Kg. of crushed ice. The mixture was extracted with chloroform, the combined chloroform solution washed with water, dried, and concentrated. The remaining oil was distilled at reduced pressure to give p-iodobenzyl alcohol. A mass spectrum (70 ev) parent ion was measured at m/e 233.9545; calculated for C7H7IO, 233.9544. The ir and nmr spectrum were in agreement with the proposed structure. The use of a mass spectrum for identification of compounds is shown, for example, in R. Venkataraghaven, R. D. Board, R. Klimowsky, J. W. Amy, and F. W. McLafferty, Adv. Mass Spec., 4, 65 (1967) and R. Venkataraghaven, R. J. Klimowksy, F. W. McLafferty, Acc. Chem. Res., 3, 158 (1970).

reactant | iodine | 250 g | II | I2
reactant | sulfuric acid | 140 ml | S(O)(O)(=O)=O | H2O4S
reactant | benzyl alcohol | 216 g | C(C1=CC=CC=C1)O | C7H8O
reactant | Sodium iodate | 92 g | I(=O)(=O)[O-].[Na+]
solvent | water | 500 ml | O | H2O
solvent | acetic acid | 1350 ml | C(C)(=O)O | C2H4O2
product | p-iodobenzyl alcohol | IC1=CC=C(CO)C=C1 | C7H7IO
